US04787930
40 g (0.161 mol) of 2,3,5,6-tetrafluoro-4-trifluoromethylphenylhydrazine and 27.8 g (0.161 mol) of ethyl ethoxymethylenecyanoacetate are dissolved in 70 ml of ethanol and the solution is warmed under reflux for 10 hours. The solvent is distilled off in vacuo, the residue is suspended in 100 ml of diethyl ether, the suspension is filtered and the solid is dried. 52.2 g (87.4% of theory) of 5-amino-4-ethoxycarbonyl-1-(2,3,5,6-tetrafluoro-4-trifluoromethyl-phenyl)-pyrazole of melting point 175° C.-176° C. are obtained.

reactant | 2,3,5,6-tetrafluoro-4-trifluoromethylphenylhydrazine | 0.161 mol, 40 g | FC1=C(C(=C(C(=C1F)C(F)(F)F)F)F)NN | C7H3F7N2
reactant | ethyl ethoxymethylenecyanoacetate | 0.161 mol, 27.8 g | C(C)OC=C(C(=O)OCC)C#N | C8H11NO3
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 5-amino-4-ethoxycarbonyl-1-(2,3,5,6-tetrafluoro-4-trifluoromethyl-phenyl)-pyrazole | 52.2 g, 87.4% | NC1=C(C=NN1C1=C(C(=C(C(=C1F)F)C(F)(F)F)F)F)C(=O)OCC | C13H8F7N3O2
